US07741327B2
Hydrochloric acid gas was bubbled into a stirred solution of (R)-4-(3-{(S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoylamino}-pyrazol-1-ylmethyl)-2,2-dimethyl-oxazolidin-3-carboxylic acid t-butyl ester (1.00 g, 16.63 mmol) in diethyl ether (20 mL) for 30 seconds. The reaction mixture was then stirred at room temperature for 30 min during which a white solid precipitates out of solution. The diethyl ether was decanted off and the solid washed with three portions of diethyl ether. The crude product was purified via supercritical fluid chromatography on a DAICEL AD column, 25% methanol, 70 mL/min to afford (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2-amino-3-hydroxy-propyl)-1H-pyrazol-3-yl]-amide (362 mg, 47%) as a white solid: LR-ES-MS m/z calculated for C22H28ClN5O4 [M]+ 461, observed 462 [M+H]+; 1H NMR (300 MHz, DMSO-d6) δ ppm 0.90 (d, J=6.3 Hz, 3H), 0.94 (d, J=6.3 Hz, 3H), 1.34-1.85 (m, 5H), 3.00 (br. s., 1H), 3.22 (br. s., 2H), 3.80 (dd, J=13.4, 6.9 Hz, 1H), 4.02 (dd, J=13.4, 5.0 Hz, 1H), 4.21 (d, J=18.4 Hz, 1H), 4.61 (d, J=18.4 Hz, 1H), 4.65-4.75 (m, 1H), 4.79 (s, 1H), 4.89 (dd, J=9.8, 4.1 Hz, 1H) H), 6.42 (s, 1H), 7.31-7.42 (m, 1H), 7.42-7.55 (m, 2H), 7.57 (br. s., 1H), 7.65 (d, J=7.2 Hz, 1H), 10.79 (br. s., 1H).

reactant | Hydrochloric acid | Cl | ClH
reactant | (R)-4-(3-{(S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoylamino}-pyrazol-1-ylmethyl)-2,2-dimethyl-oxazolidin-3-carboxylic acid t-butyl ester | 16.63 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1C(OC[C@H]1CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O)(C)C | C30H40ClN5O6
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2-amino-3-hydroxy-propyl)-1H-pyrazol-3-yl]-amide | 362 mg, 47% | N[C@H](CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O)CO | C22H28ClN5O4
